### PR TITLE
[Merged by Bors] - feat(Pointwise/Finset): generalise smul_finset lemmas

### PR DESCRIPTION
**Pull request by b-mehta**
Generalises `card_smul_finset`, `smul_finset_inter`, `smul_finset_sdiff`, `smul_finset_symmDiff` and `smul_finset_subset_smul_finset_iff` from group actions to `IsLeftCancelSMul`, and adds `IsSMulRegular` versions for a single regular element.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: I think these should generalize too

**Review by eric-wieser — COMMENTED** [review]
Let's do the `Set` ones too!

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean
Comment (b-mehta) [reply Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: Yup (though to a `IsLeftCancelMul` rather than `IsLeftCancelSMul`). 
We discussed moving all the non-inv ones out of group, but `smul_finset_univ` also can't move out because it requires surjectivity of mul too, so I'm leaving that one as-is too.

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean [hunk 1]
```diff
@@ -140,14 +141,56 @@ theorem op_smul_finset_mul_eq_mul_smul_finset (a : α) (s : Finset α) (t : Fins
...
+variable [SMul α β] [IsLeftCancelSMul α β] [DecidableEq β] {s t : Finset β} {a : α}
 
 @[to_additive]
 theorem pairwiseDisjoint_smul_iff {s : Set α} {t : Finset β} :
     s.PairwiseDisjoint (· • t) ↔ (s ×ˢ t : Set (α × β)).InjOn fun p => p.1 • p.2 := by
   simp_rw [← pairwiseDisjoint_coe, coe_smul_finset, Set.pairwiseDisjoint_smul_iff]
 
+@[to_additive (attr := simp)]
+theorem smul_finset_subset_smul_finset_iff : a • s ⊆ a • t ↔ s ⊆ t :=
+  image_subset_image_iff fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: Isn't there a more direct projection to IsSMulRegular from `IsLeftCancelSMul`?

Comment (b-mehta) [reply Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: No: https://loogle.lean-lang.org/?q=IsLeftCancelSMul%2C+IsSMulRegular

File: Mathlib/Algebra/Regular/SMul.lean [hunk 2]
```diff
@@ -222,15 +222,17 @@ end CommSemigroup
 
 end IsSMulRegular
 
+/-- If scalar multiplication is left cancellative, every element is regular. -/
+theorem IsLeftCancelSMul.isSMulRegular {M N : Type*} [SMul M N] [IsLeftCancelSMul M N] (a : M) :
+    IsSMulRegular N a := fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Regular/SMul.lean]: Perhaps this should be `IsSMulRegular.all`, matching `Commute.all`?

File: Mathlib/Algebra/Regular/SMul.lean [hunk 3]
```diff
@@ -222,15 +222,17 @@ end CommSemigroup
...
 variable {G : Type*} [Group G]
 
-/-- An element of a group acting on a Type is regular. This relies on the availability
-of the inverse given by groups, since there is no `LeftCancelSMul` typeclass. -/
-theorem isSMulRegular_of_group [MulAction G R] (g : G) : IsSMulRegular R g := by
-  intro x y h
-  convert congr_arg (g⁻¹ • ·) h <;> simp [← smul_assoc]
+/-- An element of a group acting on a type is regular. -/
+theorem isSMulRegular_of_group [MulAction G R] (g : G) : IsSMulRegular R g :=
+  IsLeftCancelSMul.isSMulRegular g
```
Comment (eric-wieser) [inline Mathlib/Algebra/Regular/SMul.lean]: This may as well be deprecated, right? Especially with the `all` name suggestion above.

File: Mathlib/Algebra/Group/Action/Pointwise/Set/Basic.lean [hunk 4]
```diff
@@ -184,13 +184,35 @@ protected def mulActionSet [Monoid α] [MulAction α β] : MulAction α (Set β)
...
+variable [SMul α β] [IsLeftCancelSMul α β] {s t : Set β} {a : α} {x : β}
 
 @[to_additive (attr := simp)]
 theorem smul_mem_smul_set_iff : a • x ∈ a • s ↔ x ∈ s :=
-  (MulAction.injective _).mem_set_image
+  Function.Injective.mem_set_image (fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _)
+
+@[to_additive (attr := simp)]
+theorem smul_set_subset_smul_set_iff : a • s ⊆ a • t ↔ s ⊆ t :=
+  image_subset_image_iff (fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _)
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Action/Pointwise/Set/Basic.lean]: Can we please add this instance too?
```lean
instance : IsLeftCancelSMul α (Set β) where
  left_cancel' := by simp [le_antisymm_iff]
```

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean [hunk 5]
```diff
@@ -140,16 +141,71 @@ theorem op_smul_finset_mul_eq_mul_smul_finset (a : α) (s : Finset α) (t : Fins
...
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: And the one for `Finset` too.

**Review by j-loreaux — COMMENTED** [review]
Otherwise LGTM

bors d+

File: Mathlib/Algebra/Group/Action/Pointwise/Set/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Action/Pointwise/Set/Basic.lean]: Also we should have `IsSMulRegular a β -> IsSMulRegular a (Set β)`, which can probably be used to prove that.

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean [hunk 6]
```diff
@@ -140,16 +141,71 @@ theorem op_smul_finset_mul_eq_mul_smul_finset (a : α) (s : Finset α) (t : Fins
 
 end Semigroup
 
+section SMul
+variable [SMul α β] [DecidableEq β] {s t : Finset β} {a : α}
+
+theorem smul_finset_subset_smul_finset_iff_of_isSMulRegular (h : IsSMulRegular β a) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: Should this be
```suggestion
theorem IsSMulRegular.smul_finset_subset_smul_finset_iff (h : IsSMulRegular β a) :
```

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean [hunk 7]
```diff
@@ -140,16 +141,71 @@ theorem op_smul_finset_mul_eq_mul_smul_finset (a : α) (s : Finset α) (t : Fins
...
+    a • s ⊆ a • t ↔ s ⊆ t := image_subset_image_iff h
+
+theorem smul_finset_inter_of_isSMulRegular (h : IsSMulRegular β a) :
+    a • (s ∩ t) = a • s ∩ a • t := image_inter _ _ h
+
+theorem smul_finset_sdiff_of_isSMulRegular (h : IsSMulRegular β a) :
+    a • (s \ t) = a • s \ a • t := image_sdiff _ _ h
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: Do we have these for `Set`?

File: Mathlib/Algebra/Group/Action/Pointwise/Set/Basic.lean [hunk 8]
```diff
@@ -184,13 +184,35 @@ protected def mulActionSet [Monoid α] [MulAction α β] : MulAction α (Set β)
...
+
+@[to_additive]
+theorem smul_set_inter : a • (s ∩ t) = a • s ∩ a • t :=
+  image_inter (fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Pointwise/Set/Basic.lean]:
```suggestion
  image_inter <| IsSMulRegular.all a
```
or similar, etc.

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean [hunk 9]
```diff
@@ -140,16 +141,71 @@ theorem op_smul_finset_mul_eq_mul_smul_finset (a : α) (s : Finset α) (t : Fins
...
+  image_inter _ _ fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _
+
+@[to_additive]
+theorem smul_finset_sdiff : a • (s \ t) = a • s \ a • t :=
+  image_sdiff _ _ fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _
+
+open scoped symmDiff in
+@[to_additive]
+theorem smul_finset_symmDiff : a • s ∆ t = (a • s) ∆ (a • t) :=
+  image_symmDiff _ _ fun _ _ ↦ IsLeftCancelSMul.left_cancel a _ _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]:
```suggestion
  smul_finset_symmDiff_of_isSMulRegular (.all a)
```
or similar

**Comment by b-mehta** [comment]
Some of the ideas above won't work because the to_additive setup fails because there's no IsVAddRegular. So #43647 will need to go in first, and in the meantime I'll rebase on top of that.

File: Mathlib/Algebra/Group/Action/Pointwise/Finset.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/Algebra/Group/Action/Pointwise/Finset.lean]: The file they'd live in has `assert_not_exists MonoidWithZero` so I can't import the file which defines `IsSMulRegular`.

**Comment by eric-wieser** [comment]
bors merge

Thanks!
